US08703768B2
Step 2: Methyl 3-(bis(tert-butoxycarbonyl)amino)-6-isopropylpyrazine-2-carboxylate
A solution of methyl 3-(bis(tert-butoxycarbonyl)amino)-6-(prop-1-en-2-yl)pyrazine-2-carboxylate (323 mg, 0.82 mmol) in MeOH (4 ml) was charged under an argon atmosphere at r.t. with Pd/C 10% (30 mg, 0.28 mmol). The reaction mixture was stirred at r.t. under a hydrogen atmosphere for 15 h, filtrated and the solvent was removed to yield the product as yellow viscous oil (302 mg, 92%) which was used without any purification.

reactant | methyl 3-(bis(tert-butoxycarbonyl)amino)-6-(prop-1-en-2-yl)pyrazine-2-carboxylate | 0.82 mmol, 323 mg | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)C(=C)C)C(=O)OC)C(=O)OC(C)(C)C | C19H27N3O6
solvent | MeOH | 4 ml | CO | CH4O
catalyst | Pd/C | 0.28 mmol, 30 mg | [Pd] | Pd
product | Methyl 3-(bis(tert-butoxycarbonyl)amino)-6-isopropylpyrazine-2-carboxylate | 302 mg, 92% | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)C(C)C)C(=O)OC)C(=O)OC(C)(C)C | C19H29N3O6
